US07846929B2
To a stirring solution of 2-methoxyethylamine (0.58 ml) in dichloromethane (10 ml) was added triethylamine (1.0 ml) and methanesulphonyl chloride (0.51 ml). The mixture was stirred at room temperature overnight. The solvents were removed in vacuo to give a crude product which was purified by flash chromatography to give N-(2-Methoxy-ethyl)-methanesulfonamide (0.74 g).

reactant | 2-methoxyethylamine | 0.58 ml | COCCN | C3H9NO
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.51 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2-Methoxy-ethyl)-methanesulfonamide | 0.74 g | COCCNS(=O)(=O)C | C4H11NO3S
